US04684665
A mixture of 20.4 g (0.134 mol) of 4-hydroxybenzoic acid methylester, 200 ml of dimethyl formamide, 40 g (0.160 mol) of 2-dodecyloxy ethylchloride (from 2-dodecyloxy ethanol and thionyl chloride) and 8.6 g (0.160 mol) of sodium methylate was heated for 7 hours to boiling temperature and, after cooling and removal of the sodium chloride by filtration, was evaporated to dryness. The residue was dissolved in methylene chloride and subjected to column chromatography (silica gel, Merck using methylene chloride as the eluent). After recrystallization from methanol, the combined fractions after TLC gave 30 g (61% of the theoretical) of pure 4-(2-dodecyloxyethoxy)-benzoic acid methylester melting at 40° to 42° C.

reactant | 4-hydroxybenzoic acid methylester | 0.134 mol, 20.4 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 2-dodecyloxy ethylchloride | 0.160 mol, 40 g | C(CCCCCCCCCCC)OCCCl | C14H29ClO
reactant | sodium methylate | 0.160 mol, 8.6 g | C[O-].[Na+]
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(2-dodecyloxyethoxy)-benzoic acid methylester | COC(C1=CC=C(C=C1)OCCOCCCCCCCCCCCC)=O | C22H36O4
